US08871361B2
(E)-3-bromo-N′-phenylbenzimidamide (6.95 g, 25.3 mmol), 2-chloroacetaldehyde (6.94 g, 44.2 mmol) and sodium bicarbonate (5.30 g, 63.1 mmol) were charged into the reaction flask with 200 mL of 2-propanol. This reaction mixture was heated at reflux for 18 h. The reaction mixture was cooled to room temperature, was diluted with 200 mL of water then was extracted with ethyl acetate. The extracts were washed with aqueous lithium chloride then were dried over magnesium sulfate. These dried extracts were then filtered and stripped under vacuum. The crude residue was passed through a silica gel column using 30-35% ethyl acetate/hexanes yielding 2-(3-bromophenyl)-1-phenyl-1H-imidazole (2.8 g, 9.36 mmol, 37% yield).

reactant | (E)-3-bromo-N′-phenylbenzimidamide | 25.3 mmol, 6.95 g | BrC=1C=C(/C(/N)=N\C2=CC=CC=C2)C=CC1 | C13H11BrN2
reactant | 2-chloroacetaldehyde | 44.2 mmol, 6.94 g | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | 63.1 mmol, 5.30 g | C([O-])(O)=O.[Na+]
reactant | 2-propanol | 200 mL | CC(C)O | C3H8O
solvent | water | 200 mL | O | H2O
product | 2-(3-bromophenyl)-1-phenyl-1H-imidazole | 9.36 mmol, 2.8 g, 37% yield | BrC=1C=C(C=CC1)C=1N(C=CN1)C1=CC=CC=C1 | C15H11BrN2
